US08497274B2
Production of N-(2-fluoro-5-hydroxyphenyl)-2-[3-(trifluoromethyl)phenyl]acetamide [3-(Trifluoromethyl)phenyl]acetic acid (4.1 g, 20.1 mmol) was dissolved in tetrahydrofuran (20 mL), and oxalyl chloride (2.1 mL, 24.5 mmol) and N,N-dimethylformamide (5 μL) were added. The reaction mixture was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure to give [3-(trifluoromethyl)phenyl]acetyl chloride. To a solution of 3-amino-4-fluorophenol (2.43 g, 19.1 mmol) in tetrahydrofuran (20 mL) was added a suspension of sodium hydrogen carbonate (2.41 g, 28.6 mmol) in water (30 mL), and the mixture was vigorously stirred at room temperature. A solution of [3-(trifluoromethyl)phenyl]acetyl chloride produced above in tetrahydrofuran (10 mL) was added dropwise to the mixture, and the mixture was stirred at room temperature for 30 min. Ethyl acetate (100 mL) was added to the reaction mixture to separate the aqueous layer. The organic layer was washed with saturated brine (100 mL), and dried over anhydrous magnesium sulfate. Insoluble material was filtered off, and the obtained solution was purified by silica gel chromatography (eluate: ethyl acetate), and the obtained solution was concentrated under reduced pressure to give the title compound (5.84 g, 98%) as a pale-brown solid.

reactant | N-(2-fluoro-5-hydroxyphenyl)-2-[3-(trifluoromethyl)phenyl]acetamide [3-(Trifluoromethyl)phenyl]acetic acid | 20.1 mmol, 4.1 g | FC(C=1C=C(C=CC1)CC(=O)O)(F)F.FC1=C(C=C(C=C1)O)NC(CC1=CC(=CC=C1)C(F)(F)F)=O
reactant | oxalyl chloride | 24.5 mmol, 2.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 5 μL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [3-(trifluoromethyl)phenyl]acetyl chloride | FC(C=1C=C(C=CC1)CC(=O)Cl)(F)F | C9H6ClF3O
